US08067408B2
Methyl 3-[(4-hydroxy-1-piperidinyl)carbonyl]benzoate
To 3-[(methyloxy)carbonyl]benzoic acid (0.901 g, 5 mmol) in DCM (25 mL) was added TEA (0.697 mL, 5.00 mmol), and EtOCOCl (0.480 mL, 5.0 mmol), stirred at 0° C. for 10 min. and then 4-piperidinol (0.506 g, 5.00 mmol) was added. This mixture was then stirred at room temperature for 16 h. The reaction mixture was diluted with DCM (35 mL), washed with HOAc (20 mL, 10%), NaHCO3 (20 mL, 10%), water (20 mL), dried over Na2SO4, filtered and concentrated and purified by CombiFlash chromatograph to afford the title compound (0.696 g, 53%). LC-MS m/z 264 (M+H)+.

reactant | 3-[(methyloxy)carbonyl]benzoic acid | 5 mmol, 0.901 g | COC(=O)C=1C=C(C(=O)O)C=CC1 | C9H8O4
reactant | EtOCOCl | 5.0 mmol, 0.480 mL | C(C)OC(=O)Cl | C3H5ClO2
reactant | 4-piperidinol | 5.00 mmol, 0.506 g | N1CCC(CC1)O | C5H11NO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
product | Methyl 3-[(4-hydroxy-1-piperidinyl)carbonyl]benzoate | 0.696 g, 53% | OC1CCN(CC1)C(=O)C=1C=C(C(=O)OC)C=CC1 | C14H17NO4
